US06458772B1
To a solution of N-BOC-L-isoleucine chloromethyl ester (19.6 g, 70 mmol) in acetonitrile (300 mL), was added sodium iodide (31.5 g, 210 mmol). The solution was stirred for 4 h at 60° C. The resulting suspension was filtered and the filtrate was evaporated. The residue was dissolved in CH2Cl2 and washed with aqueous sodium thiosulmte (0.1 M). The organic phase was dried (Na2SO4) and concentrated under reduced pressure. The crude product was column chromatographed (silica gel, 2% MeOH in CH2Cl2), to give 22.6 g of N-BOC-L-isoleucine iodomethyl ester.

reactant | N-BOC-L-isoleucine chloromethyl ester | 70 mmol, 19.6 g | ClCOC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C12H22ClNO4
reactant | sodium iodide | 210 mmol, 31.5 g | [I-].[Na+]
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | N-BOC-L-isoleucine iodomethyl ester | 22.6 g | ICOC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C12H22INO4
